US09428499B2
Step-a: Synthesis of (Tert-butyl)-2-(3-nitrophenyl)-2-oxoacetamide
Under nitrogen atmosphere, zinc chloride (8.12 g, 59.6 mmol) and molecular sieve (200 mg) were taken in THF (10 ml) at room temperature. To the above mixture 3-nitrobenzaldehyde (3.00 g, 19.85 mmol), N-methylhydroxylamine hydrochloride (2.65 g, 31.8 mmol) and sodium bicarbonate (2.67 g, 31.8 mmol) were added. The mixture was stirred at room temperature for 30 min., followed by addition of 2-isocyano-2-methylpropane (3.30 g, 39.7 mmol) and acetic acid (3.58 g, 59.6 mmol) and the reaction mixture was stirred for 48 hrs. Water (50 ml) was added and the mixture was extracted with ethyl acetate (2×50 ml). Combined organic layer was washed with aq. satd. sodium bicarbonate solution and water and dried over sodium sulfate. The mixture was concentrated under vacuum and the crude product obtained was purified by column chromatography to afford the yellow oil (2.4 gm).

reactant | 3-nitrobenzaldehyde | 19.85 mmol, 3.00 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | N-methylhydroxylamine hydrochloride | 31.8 mmol, 2.65 g | Cl.CNO
reactant | sodium bicarbonate | 31.8 mmol, 2.67 g | C([O-])(O)=O.[Na+]
reactant | 2-isocyano-2-methylpropane | 39.7 mmol, 3.30 g | [N+](#[C-])C(C)(C)C | C5H9N
reactant | acetic acid | 59.6 mmol, 3.58 g | C(C)(=O)O | C2H4O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 59.6 mmol, 8.12 g | [Cl-].[Zn+2].[Cl-]
solvent | Water | 50 ml | O | H2O
product | (Tert-butyl)-2-(3-nitrophenyl)-2-oxoacetamide | 2.4 gm | C(C)(C)(C)NC(C(=O)C1=CC(=CC=C1)[N+](=O)[O-])=O | C12H14N2O4
